US05496781
The ligand (cyclopentadienyl)(fluorenyl)methane was prepared as follows. To 0.4 mole dibromomethane dissolved in 200 mL pentane was added 0.2 mole fluorenyllithium powder. After the addition was complete, the reaction mixture was stirred for two hours. The reaction mixture was filtered and the filtrate washed with 100 mL of distilled water. The organic phase was dried with Na2SO4 and the solvent was stripped under vacuum. The residue was washed with 150 mL pentane to remove unreacted fluorene and dried under vacuum to yield pale yellow colored (bromo)(fluorenyl)methane. The yield was 80%. The (bromo)(fluorenyl)methane was dissolved in 20 mL ether and 19 mL (2M in THF) cyclopentadienylsodium was added at a rate of 0.15 mL/min. The reaction mixture was stirred for two hours and washed with 50 mL distilled water. The organic phase was dried over Na2SO4 and the solvent removed under vacuum to yield pale yellow (cyclopentadienyl)(fluorenyl)methane. The yield was 70%.

reactant | (bromo)(fluorenyl)methane | BrCC1=CC=CC=2C3=CC=CC=C3CC12 | C14H11Br
reactant | cyclopentadienylsodium | 2M, 19 mL | C1(C=CC=C1)[Na]
solvent | ether | 20 mL | CCOCC | C4H10O
product | (cyclopentadienyl)(fluorenyl)methane | yield was 70% | C1(C=CC=C1)CC1=CC=CC=2C3=CC=CC=C3CC12 | C19H16
